US04536601
A solution of L-phenylalaninol (6.0 g) and 4-methylbenzaldehyde (5.3 g) in ethanol (40 ml) was stirred for 30 minutes at room temperature. Sodium borohydride (2.0 g) was added in small portions with stirring and ice-cooling, and then the mixture was stirred for 1.5 hours at room temperature. After removal of the ethanol by evaporation, the residue was acidified with dilute hydrochloric acid and then made alkaline with aqueous sodium hydroxide. The resulting mixture was extracted with chloroform. The extract was dried over sodium sulfate and the solvent was evaporated. The residue was recrystallized from ethanol to give N-(4-methylbenzyl)-L-phenylalaninol (8.9 g), mp 125°-127° C., [α]D -6.7°.

reactant | L-phenylalaninol | 6.0 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | 4-methylbenzaldehyde | 5.3 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | Sodium borohydride | 2.0 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-(4-methylbenzyl)-L-phenylalaninol | 8.9 g | CC1=CC=C(CN[C@@H](CC2=CC=CC=C2)CO)C=C1 | C17H21NO
